US06566367B2
Stir 2-chloro-5-phenyl-1H-imidazo[4,5-b]pyrazine (231 mg, 1 mmol) and spiro[isobenzofuran-1,4′-piperidin]-3-one (406 mg, 2 mmol) in dimethylacetamide (5 mL) at 120° C. for 14 hours. Cool the mixture and partition between EtOAc and half-saturated NaHCO3, wash several times with water, dry and concentrate in vacuo. Purify by chromatography (1:1 hexanes/EtOAc) to obtain 1′-(5-Phenyl-1H-imidazo[4,5-b]pyrazin-2-yl)-spiro[isobenzofuran-1,4′-piperidin]-3-one as a tan solid.

reactant | 2-chloro-5-phenyl-1H-imidazo[4,5-b]pyrazine | 1 mmol, 231 mg | ClC1=NC=2C(=NC=C(N2)C2=CC=CC=C2)N1 | C11H7ClN4
reactant | spiro[isobenzofuran-1,4′-piperidin]-3-one | 2 mmol, 406 mg | N1CCC2(CC1)OC(C1=CC=CC=C12)=O | C12H13NO2
solvent | dimethylacetamide | 5 mL | CC(=O)N(C)C | C4H9NO
product | 1′-(5-Phenyl-1H-imidazo[4,5-b]pyrazin-2-yl)-spiro[isobenzofuran-1,4′-piperidin]-3-one | C1(=CC=CC=C1)C=1N=C2C(=NC1)NC(=N2)N2CCC1(CC2)OC(C2=CC=CC=C21)=O | C23H19N5O2
